US07842684B2
Methyl {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenoxy}acetate
Methyl {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-iodophenyl)-4-oxoazetidin-2-yl]phenoxy}acetate (500 mg, 0.69 mmol) and N-prop-2-yn-1-ylmethanesulfonamide (150 mg, 1.13 mmol) were mixed in 15 ml water and 4 ml MeCN. K2CO3 (220 mg, 1.59 mmol), Pd(PPh3)4 (40 mg, 5 mol %) and CuI (13 mg, 10 mol %) were added. The solution was stirred at 50° C. for 2 h and at ambient temperature over night. EtOAc (20 ml) and 2 M HCl (1 ml) were added. The mixture was stirred for 5 min and the phases were separated. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with 2% NaHCO3, brine (2×), dried with MgSO4 and concentrated to yield the title compound. M/z: 725.3 (M−1). 1H-NMR (400 MHz, DMSO-d6) δ: −0.18 (s, 3H), −0.04 (s, 3H), 0.77 (s, 9H), 2.85-3.02 (m, 5H), 3.69 (s, 3H), 3.80 (dd, 1H), 4.01 (d, 2H), 4.29 (d, 1H), 4.79 (s, 2H), 4.91 (dd, 1H), 5.11 (d, 1H), 6.95 (d, 2H), 7.09-7.18 (m, 2H), 7.18-7.25 (d, 2H), 7.32-7.42 (m, 6H).

reactant | Methyl {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-iodophenyl)-4-oxoazetidin-2-yl]phenoxy}acetate | 0.69 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)I)C1=CC=C(OCC(=O)OC)C=C1)C1=CC=C(C=C1)F | C32H37FINO5SSi
reactant | N-prop-2-yn-1-ylmethanesulfonamide | 1.13 mmol, 150 mg | C(C#C)NS(=O)(=O)C | C4H7NO2S
reactant | K2CO3 | 1.59 mmol, 220 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2 M, 1 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | MeCN | 4 ml | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 13 mg | [Cu]I
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | Methyl {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenoxy}acetate | [Si](C)(C)(C(C)(C)C)O[C@@H](CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C)C1=CC=C(OCC(=O)OC)C=C1)C1=CC=C(C=C1)F | C36H43FN2O7S2Si
